US06022379
40 millimol of 1,4-naphthoquinone and 10 millimol of methyl 2-(N-methyl-1H-pyrrolyl)acetate were stirred in 50 ml of glacial acetic acid in a round-bottomed flask for 2 hours at room temperature. The reaction mixture was diluted with 300 ml of chloroform and the resulting mixture was then poured into a large volume of water (300 ml). The organic phase was then separated out and washed four times with 100 ml of water and finally with saturated aqueous NaCl solution. The resulting organic phase was dried over Na2SO4 and then concentrated under vacuum. The methyl [5-(1,4-dihydroxynaphthalen-2-yl)-1-methyl-1H-pyrrol-2-yl]acetate was thus isolated in a yield of 12% after purification by chromatography on a column of silica.

reactant | 1,4-naphthoquinone | 40 millimol | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | methyl 2-(N-methyl-1H-pyrrolyl)acetate | 10 millimol | CN1C(=CC=C1)CC(=O)OC | C8H11NO2
reactant | water | 300 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl [5-(1,4-dihydroxynaphthalen-2-yl)-1-methyl-1H-pyrrol-2-yl]acetate | yield of 12% | OC1=C(C=C(C2=CC=CC=C12)O)C1=CC=C(N1C)CC(=O)OC | C18H17NO4
